US09302989B2
N-{4-[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 280, substituting 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)ethanol for 1H-pyrazol-3-ylboronic acid and N-(4-bromophenyl)isoindoline-2-carboxamide for 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 3.76 (q, J=5.8 Hz, 2H), 4.14 (t, J=5.6 Hz, 2H), 4.77 (s, 4H), 4.90 (t, J=5.4 Hz, 1H), 7.25-7.41 (m, 4H), 7.41-7.51 (m, 2H), 7.51-7.60 (m, 2H), 7.80 (s, 1H), 8.04 (s, 1H), 8.32 (s, 1H); MS (ESI(+)) m/e 349 (M+H)+.

reactant | 1H-pyrazol-3-ylboronic acid | N1N=C(C=C1)B(O)O | C3H5BN2O2
reactant | N-(4-bromophenyl)isoindoline-2-carboxamide | BrC1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C15H13BrN2O
reactant | 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | BrC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H20BrN3O2
product | N-{4-[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide | OCCN1N=CC(=C1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C20H20N4O2
